US05093332
A solution of borane/THF (200 ml, 1M, 200 mmol) was added gradually to a solution of (2,3-dihydro-2-oxo-6-sulfamoyl-1H-thieno-[2,3-b]-[1,4]thiazin-3-yl)acetic acid (12.3 g, 40 mmol) in THF (200 ml). The mixture was stirred at ambient temperature until gas evolution ceased and the resulting clear solution was heated under reflux overnight. The reaction mixture was cooled to 25° C. and treated with methanol (200 ml). When gas evolution ceased, the mixture was evaporated to dryness under vacuum and the residue was restripped from methanol two additional times (2×50 ml). Recrystallization of the residue from water gave 6.4 g 3-(2-hydroxyethyl)-2,3-dihydro-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine, mp 145°-147° C. An additional 1.2 g of product was isolated from the filtrate on standing. Further recrystallization from water gave material of mp 149°-150° C.

reactant | borane THF | 200 mmol, 1M, 200 ml | B.C1CCOC1
reactant | (2,3-dihydro-2-oxo-6-sulfamoyl-1H-thieno-[2,3-b]-[1,4]thiazin-3-yl)acetic acid | 40 mmol, 12.3 g | O=C1NC2=C(SC1CC(=O)O)SC(=C2)S(N)(=O)=O | C8H8N2O5S3
reactant | methanol | 200 ml | CO | CH4O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 3-(2-hydroxyethyl)-2,3-dihydro-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine | 6.4 g | OCCC1CNC2=C(S1)SC(=C2)S(N)(=O)=O | C8H12N2O3S3
